US05412094
Loracarbef DMF Disolvate
To a mixture of loracarbef: ethyl paraben (1.34 g, 65.5% potency as loracarbef) in 18 ml of DMF and 1.8 ml of H2O was added concentrated hydrochloric acid sufficient to obtain a clear solution. The pH of the solution was slowly raised to 6.9 with triethylamine, and the crystallization of the titled product occurred quickly. The mixture was stirred for 1 hour at room temperature, filtered, washed with a solution of 10:1/DMF:H2O, and dried under a vacuum at 40° C. HPLC analysis indicated that no ethyl paraben was present. The actual yield was 1.01 g, 73.9% potency as loracarbef, the theoretical yield was 0.87 g as loracarbef, and the percent yield was 85.3%.

reactant | loracarbef | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@H]3CCC(=C(N3C2=O)C(=O)O)Cl)N | C16H16ClN3O4
reactant | ethyl paraben | 1.34 g | C(C)OC(=O)C1=CC=C(O)C=C1 | C9H10O3
reactant | hydrochloric acid | Cl | ClH
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
solvent | H2O | 1.8 ml | O | H2O
product | Loracarbef DMF | yield was 85.3% | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@H]3CCC(=C(N3C2=O)C(=O)O)Cl)N.CN(C)C=O | InChI=1S/C16H16ClN3O4.C3H7NO/c17-9-6-7-10-12(15(22)20(10)13(9)16(23)24)19-14(21)11(18)8-4-2-1-3-5-8;1-4(2)3-5/h1-5,10-12H,6-7,18H2,(H,19,21)(H,23,24);3H,1-2H3/t10-,11-,12+;/m1./s1
